US04199592
To a solution of 94.1 g (0.43 mole) of 2-(4-fluorophenyl)-1-(2-thienyl)ethanone in 700 ml. of ether was added dropwise a solution of 65.0 g. (0.41 mole of bromine in 140 ml. of methylene chloride at room temperature with stirring. The solvent was removed under vacuum to give 125.0 g of 2-bromo-2-(4-fluorophenyl)-1-(2-thienyl)ethanone.

reactant | 2-(4-fluorophenyl)-1-(2-thienyl)ethanone | 0.43 mole, 94.1 g | FC1=CC=C(C=C1)CC(=O)C=1SC=CC1 | C12H9FOS
reactant | ether | CCOCC | C4H10O
reactant | bromine | 0.41 mole | BrBr | Br2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-bromo-2-(4-fluorophenyl)-1-(2-thienyl)ethanone | 125.0 g | BrC(C(=O)C=1SC=CC1)C1=CC=C(C=C1)F | C12H8BrFOS
